US07553973B2
Step 3: 7-(Hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one
To a solution of 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid (0.692 g, 2.41 mmol) in THF (16 ml) at 0° C. was added triethylamine (1.3 ml, 9.63 mmol) followed by isobutyl chloroformate (0.94 ml, 7.23 mmol) over 15 min. The reaction mixture was stirred at 0° C. for 1 h and sodium borohydride (0.456 g, 12.0 mmol) in water (12 ml) was added. The reaction mixture was stirred 1 h at 0° C., quenched with a solution of NH4Cl and extracted with EtOAc. The organic phase was washed with brine, dried over MgSO4 and evaporated to dryness. The residue was purified by chromatography on silica gel (hexanes-EtOAc, 4:6 to 2:8) to give the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.22 (m, 1H), 8.05 (s, 1H), 7.40 (s, 1H), 7.35 (m, 1H), 6.62 (s, 1H), 4.80 (m, 2H), 4.55 (m, 1H), 2.82 (s, 3H).

reactant | 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid | 2.41 mmol, 0.692 g | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C14H9NO4S
reactant | triethylamine | 9.63 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 7.23 mmol, 0.94 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 12.0 mmol, 0.456 g | [BH4-].[Na+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | water | 12 ml | O | H2O
product | 7-(Hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | OCC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C14H11NO3S
